US05563141
Methyl 3-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenyl]propionate
A solution of methyl 3-(4-bromoacetylphenyl)propionate (380 mg) in acetonitrile (4 ml) was added dropwise over 15 minutes to a stirred solution of 1-(4-pyridyl)piperazine (450 mg) in acetonitrile (10 ml) and the mixture stirred overnight. The mixture was then filtered and the filtrate concentrated in vacuo to give an oil. Purification by flash chromatography on silica eluting first with dichloromethane then 5% v/v methanol/dichloromethane gave a solid. Trituration with ether gave the title compound, 172 mg, as a solid: m.p. 141°-143° C.; NMR(d6DMSO) δ8.15(2H,d), 7.92(2H,d), 7.37(2H,d), 6.83(2H,d), 3.89(2H,s), 3.59(3H,s), 3.37(4H,t), 2.93(2H,t), 2.69(2H,t), 2.65(4H,t); m/e 368(M+H)+ ; calculated for C21H25N3O3. 0.25H2O: C, 67.8; H, 6.9; N, 11.3. found: C, 67.8; H, 6.9; N,11.1%.

reactant | methyl 3-(4-bromoacetylphenyl)propionate | 380 mg | BrCC(=O)C1=CC=C(C=C1)CCC(=O)OC | C12H13BrO3
reactant | 1-(4-pyridyl)piperazine | 450 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | ether | CCOCC | C4H10O
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methyl 3-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenyl]propionate | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)CCC(=O)OC | C21H25N3O3
